.subckt sc_inv a y vdd vss
XP y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=2 nf=1
XN y a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=1 nf=1
.ends sc_inv

.subckt sc_inv2 a y vdd vss
XP y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=4 nf=2
XN y a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=2 nf=1
.ends sc_inv2

.subckt sc_inv8 a y vdd vss
XP y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=16 nf=4
XN y a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=2
.ends sc_inv8

.subckt sc_nand a b y vdd vss
XP1 y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=4 nf=2
XP2 y b vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=4 nf=2
XN1 y a nx vss sky130_fd_pr__nfet_01v8 l=0.15 w=4 nf=2
XN2 nx b vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=4 nf=2
.ends sc_nand

.subckt sc_2to1_converter vss vdd clk vout
* ---- clock receiver and non-overlap two-phase generator ----
XRX1 clk ckb vdd vss sc_inv
XRX2 ckb ck vdd vss sc_inv
XNA ck fb2 n1 vdd vss sc_nand
XA1 n1 a1 vdd vss sc_inv
XA2 a1 a2 vdd vss sc_inv
XA3 a2 s1 vdd vss sc_inv2
XFB1 s1 fb1 vdd vss sc_inv
XNB ckb fb1 n2 vdd vss sc_nand
XB1 n2 b1 vdd vss sc_inv
XB2 b1 b2 vdd vss sc_inv
XB3 b2 s2 vdd vss sc_inv2
XFB2 s2 fb2 vdd vss sc_inv
* ---- gate drivers branch A (series on s1, parallel on s2) ----
XDPA s1 p1ga vdd vss sc_inv8
XDN3A1 s1 n3pa vdd vss sc_inv2
XDN3A2 n3pa n3ga vdd vss sc_inv8
XDNPA1 s2 nppa vdd vss sc_inv2
XDNPA2 nppa npga vdd vss sc_inv8
* ---- gate drivers branch B (series on s2, parallel on s1) ----
XDPB s2 p1gb vdd vss sc_inv8
XDN3B1 s2 n3pb vdd vss sc_inv2
XDN3B2 n3pb n3gb vdd vss sc_inv8
XDNPB1 s1 nppb vdd vss sc_inv2
XDNPB2 nppb npgb vdd vss sc_inv8
* ---- power stage branch A ----
XP1A cta p1ga vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=96 nf=24
XN3A cba n3ga vout vss sky130_fd_pr__nfet_01v8 l=0.15 w=128 nf=32
XN2A cta npga vout vss sky130_fd_pr__nfet_01v8 l=0.15 w=128 nf=32
XN4A cba npga vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=48 nf=12
XCFA1 cta cba sky130_fd_pr__cap_mim_m3_1 w=100 l=100 mult=1
XCFA2 cta cba sky130_fd_pr__cap_mim_m3_1 w=100 l=100 mult=1
XCFA3 cta cba sky130_fd_pr__cap_mim_m3_1 w=100 l=100 mult=1
XCFA4 cta cba sky130_fd_pr__cap_mim_m3_1 w=100 l=100 mult=1
XCFA5 cta cba sky130_fd_pr__cap_mim_m3_1 w=100 l=100 mult=1
XCBPA cba vss sky130_fd_pr__cap_mim_m3_1 w=20 l=50 mult=1
* ---- power stage branch B ----
XP1B ctb p1gb vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=96 nf=24
XN3B cbb n3gb vout vss sky130_fd_pr__nfet_01v8 l=0.15 w=128 nf=32
XN2B ctb npgb vout vss sky130_fd_pr__nfet_01v8 l=0.15 w=128 nf=32
XN4B cbb npgb vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=48 nf=12
XCFB1 ctb cbb sky130_fd_pr__cap_mim_m3_1 w=100 l=100 mult=1
XCFB2 ctb cbb sky130_fd_pr__cap_mim_m3_1 w=100 l=100 mult=1
XCFB3 ctb cbb sky130_fd_pr__cap_mim_m3_1 w=100 l=100 mult=1
XCFB4 ctb cbb sky130_fd_pr__cap_mim_m3_1 w=100 l=100 mult=1
XCFB5 ctb cbb sky130_fd_pr__cap_mim_m3_1 w=100 l=100 mult=1
XCBPB cbb vss sky130_fd_pr__cap_mim_m3_1 w=20 l=50 mult=1
* ---- output capacitor ----
XCO01 vout vss sky130_fd_pr__cap_mim_m3_1 w=100 l=100 mult=1
XCO02 vout vss sky130_fd_pr__cap_mim_m3_1 w=100 l=100 mult=1
XCO03 vout vss sky130_fd_pr__cap_mim_m3_1 w=100 l=100 mult=1
XCO04 vout vss sky130_fd_pr__cap_mim_m3_1 w=100 l=100 mult=1
XCO05 vout vss sky130_fd_pr__cap_mim_m3_1 w=100 l=100 mult=1
XCO06 vout vss sky130_fd_pr__cap_mim_m3_1 w=100 l=100 mult=1
XCO07 vout vss sky130_fd_pr__cap_mim_m3_1 w=100 l=100 mult=1
XCO08 vout vss sky130_fd_pr__cap_mim_m3_1 w=100 l=100 mult=1
XCO09 vout vss sky130_fd_pr__cap_mim_m3_1 w=100 l=100 mult=1
XCO10 vout vss sky130_fd_pr__cap_mim_m3_1 w=100 l=100 mult=1
XCO11 vout vss sky130_fd_pr__cap_mim_m3_1 w=100 l=100 mult=1
XCO12 vout vss sky130_fd_pr__cap_mim_m3_1 w=100 l=100 mult=1
XCO13 vout vss sky130_fd_pr__cap_mim_m3_1 w=100 l=100 mult=1
XCO14 vout vss sky130_fd_pr__cap_mim_m3_1 w=100 l=100 mult=1
.ends sc_2to1_converter
